US08008298B2
2,2-Dimethyl-1-[2-(3-piperidin-1-ylmethyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one was prepared starting from 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one and 3-(piperidin-1-ylmethyl)phenylboronic acid hydrochloride following general procedures as described in these Examples. Silica gel chromatography using 0-20% [5% NH4OH:MeOH]/DCM as eluant gave a brown solid which was washed with 1:2 Et2O/Hexanes to provide 70 mg (36%) of a pale brown solid. MP 176-177° C., M+H=377.

reactant | 1-(2-bromo-5H-pyrrolo[2,3-b]pyrazin-7-yl)-2,2-dimethyl-propan-1-one | BrC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C11H12BrN3O
reactant | 3-(piperidin-1-ylmethyl)phenylboronic acid hydrochloride | Cl.N1(CCCCC1)CC=1C=C(C=CC1)B(O)O
reactant | NH4OH | [NH4+].[OH-]
reactant | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-1-[2-(3-piperidin-1-ylmethyl-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-propan-1-one | CC(C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=CC=C2)CN2CCCCC2)(C)C | C23H28N4O
